US07320995B2
A. 2-methyl-4-phenylthiazole
Add thioacetamide (0.09 g, 1.2 mmol) to a solution of 2-bromoacetophenone (0.2 g, 1.0 mmol) in 30 mL dioxane. Stir at room temperature for 4 hours, dilute with ethyl acetate, wash sequentially with aqueous sodium carbonate (3×15 mL) and water (3×20 mL). Dry the organic phase over sodium sulfate, concentrate under reduced pressure, and subject the residue to silica gel chromatography, eluting with hexane containing 10% ethyl acetate to provide the desired compound in 78% yield. MS(ES+): m/z=176.1 (M+H)+

reactant | thioacetamide | 1.2 mmol, 0.09 g | C(C)(=S)N | C2H5NS
reactant | 2-bromoacetophenone | 1.0 mmol, 0.2 g | BrCC(=O)C1=CC=CC=C1 | C8H7BrO
solvent | dioxane | 30 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-methyl-4-phenylthiazole | 78% yield | CC=1SC=C(N1)C1=CC=CC=C1 | C10H9NS
